US04508727
4.7 g of benzyl (4S)-1-methyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-3-phenylpropyl)amino]propionyl]-2-oxo-imidazolidine-4-carboxylate and 300 mg of palladium black are treated in the same manner as described in Example 1-(2), whereby 2.54 g of (4S)-1-methyl-3-{(2S)-2-[N-((1S)-1-carboxy-3-phenylpropyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid are obtained as colorless crystals. Yield: 79.9%

reactant | benzyl (4S)-1-methyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-3-phenylpropyl)amino]propionyl]-2-oxo-imidazolidine-4-carboxylate | 4.7 g | CN1C(N([C@@H](C1)C(=O)OCC1=CC=CC=C1)C([C@H](C)N[C@@H](CCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O)=O | C32H35N3O6
catalyst | palladium black | 300 mg | [Pd] | Pd
product | (4S)-1-methyl-3-{(2S)-2-[N-((1S)-1-carboxy-3-phenylpropyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid | 2.54 g, Yield: 79.9% | CN1C(N([C@@H](C1)C(=O)O)C([C@H](C)N[C@@H](CCC1=CC=CC=C1)C(=O)O)=O)=O | C18H23N3O6
